US08420655B2
To a vial is added 5-bromo-1-tert-butyl-2-[2-(1H-[1,2,4]triazol-3-yl)-phenyl]-1H-benzimidazole (100 mg, 0.252 mmol) in DMF (1.5 mL), followed by the addition of K2CO3 (70 mg, 0.504 mmol) and MeI (60 mg, 0.423 mmol). The reaction mixture is stirred at room temperature for 1 hour. The reaction mixture is diluted with EtOAc, washed with water, brine, dried using anhydrous Na2SO4 and filtered. The filtrate is concentrated and the residue is purified by silica gel flash column chromatography with 0-3% 7M NH3 in MeOH/CH2Cl2 as the eluent to afford 5-bromo-1-tert-butyl-2-[2-(1-methyl-1H-[1,2,4]-triazol-3-yl)-phenyl]-1H-benzimidazole (37 mg, 36%) as a light brown solid. LCMS (ESMS): m/z 410.58, 412.51 (M++1)

reactant | 5-bromo-1-tert-butyl-2-[2-(1H-[1,2,4]triazol-3-yl)-phenyl]-1H-benzimidazole | 0.252 mmol, 100 mg | BrC1=CC2=C(N(C(=N2)C2=C(C=CC=C2)C2=NNC=N2)C(C)(C)C)C=C1 | C19H18BrN5
reactant | K2CO3 | 0.504 mmol, 70 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | MeI | 0.423 mmol, 60 mg | CI | CH3I
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 5-bromo-1-tert-butyl-2-[2-(1-methyl-1H-[1,2,4]-triazol-3-yl)-phenyl]-1H-benzimidazole | 37 mg, 36% | BrC1=CC2=C(N(C(=N2)C2=C(C=CC=C2)C2=NN(C=N2)C)C(C)(C)C)C=C1 | C20H20BrN5
